US03931199
A mixture of 50 g of 7-bromomethyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine, 48.4 g of hexamethylenetetramine, 167 ml of water and 167 ml of acetic acid is stirred under reflux for 3 hours. To the reaction mixture is added 100 ml of concentrated hydrochloric acid, and the whole mixture is refluxed for 20 minutes. The reaction mixture is diluted with 200 ml of water, and cooled. The crystalline precipitate is filtered off, washed with water, dried, and then recrystallized from dimethylformamide to give 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carbaldehyde melting at 233-235°C.

reactant | 7-bromomethyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine | 50 g | BrCC=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C13H8BrNO2
reactant | hexamethylenetetramine | 48.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 167 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 167 ml | O | H2O
product | 5-oxo-5H-[1]benzopyrano[2,3-b]pyridine-7-carbaldehyde | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)C=O | C13H7NO3
